* G:\My Drive\Graduate Reserach\LTSpice\DAB Converter\DAB.asc
V1 N002 0 48 Rser=1
L1 N006 N008 100µ
L2 N003 N007 900µ
L3 N005 N006 5µ
M1 N002 N004 N004 N004 NMOS
C1 N002 0 50µ
M2 N002 N008 N008 N008 NMOS
M3 N004 0 0 0 NMOS
M4 N008 0 0 0 NMOS
M5 N001 N003 N003 N003 NMOS
M6 N001 N007 N007 N007 NMOS
M7 N003 0 0 0 NMOS
M8 N007 0 0 0 NMOS
C2 N001 0 50µ
R1 N001 0 10
R2 N005 N004 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran .1
.backanno
.end
